2194-09-06 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2194-9-5**] 01:16 PM
   No o/n events.
   Allergies:
   Belladonna Alkaloids
   itching; swolle
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2194-9-5**] 07:00 PM
   Pantoprazole (Protonix) - [**2194-9-5**] 11:00 PM
   Enoxaparin (Lovenox) - [**2194-9-5**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-9-6**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.9
   HR: 71 (56 - 83) bpm
   BP: 120/55(72) {105/30(47) - 127/78(82)} mmHg
   RR: 22 (19 - 36) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.1 kg (admission): 68.5 kg
   Height: 60 Inch
                  Total In:
                                                                     10 mL
                  PO:
                  TF:
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    630 mL
   Urine:
                                                                    400 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -390 mL
                                                                   -630 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: 7.32/82.[**Numeric Identifier 96**]/22/38/11
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   208 K/uL
   10.5 g/dL
   112 mg/dL
   1.9 mg/dL
   38 mEq/L
   5.5 mEq/L
   38 mg/dL
   98 mEq/L
   143 mEq/L
   32.6 %
   7.3 K/uL
        [image002.jpg]
                             [**2194-8-31**]  10:15 AM
                             [**2194-8-31**]  02:36 PM
                             [**2194-9-1**]  03:33 AM
                             [**2194-9-1**]  03:44 PM
                             [**2194-9-2**]  03:02 AM
                             [**2194-9-2**]  06:13 PM
                             [**2194-9-3**]  05:23 AM
                             [**2194-9-5**]  03:10 PM
                             [**2194-9-5**]  06:31 PM
                             [**2194-9-6**]  05:40 AM
   WBC
   5.9
   7.6
   4.4
   5.5
   7.3
   Hct
   29.8
   31.7
   30.5
   29.3
   31.5
   32.6
   Plt
   162
   184
   140
   184
   208
   Cr
   1.9
   2.0
   1.9
   2.0
   1.9
   1.9
   1.9
   TropT
   0.09
   TCO2
   45
   Glucose
   71
   84
   90
   179
   97
   123
   110
   80
   112
   Other labs: PT / PTT / INR:11.0/25.6/0.9, CK / CKMB /
   Troponin-T:16//0.09, Differential-Neuts:77.7 %, Lymph:15.1 %, Mono:6.6
   %, Eos:0.4 %, Lactic Acid:2.4 mmol/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.6 mg/dL
   Imaging: CXR [**9-5**]. rotated, no change from prior
   Microbiology: Bcx from [**9-2**] and [**9-3**] pending
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 LINE INFECTION (CENTRAL OR ARTERIAL)
 CROHN'S DISEASE (REGIONAL ENTERITIS)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERATION IN NUTRITION
   Assessment and Plan
   82F with MDS, Crohn's with multiple GI bleeds, CAD s/p NSTEMI, CKD,
   breast CA, with worsening respiratory status over past several months
   of unclear etiology, transferred from floor for hypoxia, AMS in setting
   of failed CPAP titration and family attempt to replace mask.
 ALTERED MENTAL STATUS (NOT DELIRIUM). Initially due to hypercarbia,
   which resolved. Infection also felt to contribute with coagulase
   negative staph bacteremia. This most recent episode likely due to
   hypoxia and mild hypercarbia.
   -- BiPAP today and O/N
   -- reassess ABG this AM
   -- consider head imaging if does not improve with BiPAP
 LINE INFECTION (CENTRAL OR ARTERIAL) - Coag Neg Staph Bacteremia:
   repeat Bld Cx neg so far, likely PORT, will treat through due to poor
   vascular access. Vanc level this AM 27.4.
   -- cont to monitor for fever
   -- f/u bld cx
   -- plan 14 day vanc iv course, started [**9-5**].  (d3/14)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) The patient was slightly
   dyspneic at baseline on presentation. The daughter reported that the
   patient was wearing continuous O2 at home with good oxygen sats. The
   CXR was consistent with fluid overload. The patient was diuresed with
   lasix. The diureses greatly improved the patient's symptoms. She was
   sating in the low 90's on room air. She was placed on BiPAP at night
   (on the patient's home settings) and nasal canula during the day. She
   was then transferred to the floor, where the patient had an inpatient
   overnight sleep study on CPAP that did not go well, as above.
   -- cont BiPAP
   -- arrange for floor BiPAP.
   # Diastolic Heart Failure. The patient presented with fluid overload,
   which likely contributed to her dyspnea. The CXR was consistent with
   fluid overload. The patient had an elevated BNP as well. The patient
   was diuresed with lasix and her home dose of lopressor was started
   (although the patient was not taking this medication). The lopressor
   was later stopped due to patient and family refusal.
   -- cont diuresis
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA). Intermittent, in
   setting of acidosis and/or dietary indescretion, responds to lasix and
   kayexelate. Today K 5.5.
   -- cont to trend
 CROHN'S DISEASE (REGIONAL ENTERITIS): The patient was continued on
   her home mesalamin. She was also continued on her steroid taper. The
   patient was guaiac positive during her stay, however, her hematocrit
   remained stable and was not further assessed. The patient also had 4
   episodes of diarrhea which self resolved.
   -- cont steroid taper
   -- cont atovaquone for PJP ppx
   # CKD. The patient presented with a creatinine near baseline. She has a
   mild increase with aggressive diuresis, that resolved upon holding
   diuresis for 12 hours.
   -- trend Cr
   -- renally dose all meds
   # Anemia. The patient presented with a hematocrit at her baseline,
   which has been stable since her last admission. The etiology is likely
   of chronic disease. We continued her epo and folic acid. She got B12 on
   [**2194-8-25**]. She had a HCT of 28 on the floor and she received 1U pRBC with
   repeat HCT 33.  Today 32.6.
   -- trend HCT
   # CAD. The patient has a history of an NSTEMI. She is not on ASA due to
   a history of recent GI bleeds. The patient was restarted on her low
   dose beta blocker, which was later discontinued due to patient request.
   # LUE DVT. The patient had an ultrasound on [**2194-8-25**] which revealed a
   stable hematoma and upper extremity DVT. She was continued on her home
   dose of lovenox.
   # Chronic bilateral LE edema and venous stasis. The patient was
   continued on her home trimacinolone cream.
   # GERD. Continued on protonix
   # Fungal groin rash. Continued on Miconazole powder.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2194-9-5**] 01:16 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor

2194-09-07 07:21:00 Physician Resident Progress Note
Chief Complaint: 82F with MDS, Crohn's with multiple GI bleeds, CAD s/p
   NSTEMI, CKD, breast CA, with worsening respiratory status over past
   several months of unclear etiology, transferred from floor for hypoxia,
   AMS in setting of failed CPAP titration and family attempt to replace
   mask.
   24 Hour Events:
   No acute events. Pt ordered zyprexa to be taken prior to BIPAP
   tolerated BiPAP with home machine well.
   Allergies:
   Belladonna Alkaloids
   itching; swolle
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2194-9-6**] 09:00 PM
   Omeprazole (Prilosec) - [**2194-9-7**] 12:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-9-7**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 73 (67 - 86) bpm
   BP: 104/39(54) {101/30(48) - 132/55(71)} mmHg
   RR: 26 (13 - 36) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.1 kg (admission): 68.5 kg
   Height: 60 Inch
                  Total In:
                                                                    900 mL
                  PO:
                                                                    900 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,620 mL
                                                                    600 mL
   Urine:
                                                                  1,620 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -720 mL
                                                                   -600 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///35/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   209 K/uL
   9.7 g/dL
   140 mg/dL
   2.1 mg/dL
   35 mEq/L
   5.2 mEq/L
   38 mg/dL
   99 mEq/L
   141 mEq/L
   30.5 %
   6.3 K/uL
        [image002.jpg]
                             [**2194-9-1**]  03:33 AM
                             [**2194-9-1**]  03:44 PM
                             [**2194-9-2**]  03:02 AM
                             [**2194-9-2**]  06:13 PM
                             [**2194-9-3**]  05:23 AM
                             [**2194-9-5**]  03:10 PM
                             [**2194-9-5**]  06:31 PM
                             [**2194-9-6**]  05:40 AM
                             [**2194-9-6**]  05:31 PM
                             [**2194-9-7**]  05:13 AM
   WBC
   5.9
   7.6
   4.4
   5.5
   7.3
   6.3
   Hct
   29.8
   31.7
   30.5
   29.3
   31.5
   32.6
   30.5
   Plt
   162
   184
   140
   184
   208
   209
   Cr
   1.9
   2.0
   1.9
   2.0
   1.9
   1.9
   1.9
   1.9
   2.1
   TropT
   0.09
   TCO2
   45
   Glucose
   90
   179
   97
   123
   110
   80
   112
   129
   140
   Other labs: PT / PTT / INR:10.8/26.7/0.9, CK / CKMB /
   Troponin-T:16//0.09, Differential-Neuts:85.1 %, Lymph:10.7 %, Mono:3.1
   %, Eos:0.9 %, Lactic Acid:2.4 mmol/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
   82F with MDS, Crohn's with multiple GI bleeds, CAD s/p NSTEMI, CKD,
   breast CA, with worsening respiratory status over past several months
   of unclear etiology, transferred from floor for hypoxia, AMS in setting
   of failed CPAP titration and family attempt to replace mask.
 ALTERED MENTAL STATUS (NOT DELIRIUM). Initially due to hypercarbia,
   which resolved. Infection also felt to contribute with coagulase
   negative staph bacteremia. This most recent episode likely due to
   hypoxia and mild hypercarbia.
   -- BiPAP today and O/N
 LINE INFECTION (CENTRAL OR ARTERIAL) - Coag Neg Staph Bacteremia:
   repeat Bld Cx neg so far, likely PORT, will treat through due to poor
   vascular access
   -- cont to monitor for fever
   -- f/u bld cx from [**9-2**] (GPC coag negative on [**8-31**])
   -- plan 14 day vanc iv course day [**5-13**]
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) The patient was slightly
   dyspneic at baseline on presentation. The daughter reported that the
   patient was wearing continuous O2 at home with good oxygen sats. The
   CXR was consistent with fluid overload. The patient was diuresed with
   lasix. The diureses greatly improved the patient's symptoms. She was
   sating in the low 90's on room air. She was placed on BiPAP at night
   (on the patient's home settings) and nasal canula during the day. She
   was then transferred to the floor, where the patient had an inpatient
   overnight sleep study on CPAP that did not go well, as above.
   -- cont BiPAP.
   -- zyprexa prior to BiPAP
   # Diastolic Heart Failure. The patient presented with fluid overload,
   which likely contributed to her dyspnea. The CXR was consistent with
   fluid overload. The patient had an elevated BNP as well. The patient
   was diuresed with lasix and her home dose of lopressor was started
   (although the patient was not taking this medication). The lopressor
   was later stopped due to patient and family refusal.
   -- cont diuresis  - negative 500cc
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA). Intermittent, in
   setting of acidosis and/or dietary indescretion, responds to lasix and
   kayexelate.
   -- cont to trend
 CROHN'S DISEASE (REGIONAL ENTERITIS): The patient was continued on
   her home mesalamin. She was also continued on her steroid taper. The
   patient was guaiac positive during her stay, however, her hematocrit
   remained stable and was not further assessed. The patient also had 4
   episodes of diarrhea which self resolved.
   -- cont steroid taper
   -- cont atovaquone for PJP ppx
   # CKD. The patient presented with a creatinine near baseline. She has a
   mild increase with aggressive diuresis, that resolved upon holding
   diuresis for 12 hours.
   -- trend Cr
   -- renally dose all meds
   # Anemia. The patient presented with a hematocrit at her baseline,
   which has been stable since her last admission. The etiology is likely
   of chronic disease. We continued her epo and folic acid. She got B12 on
   [**2194-8-25**]. She had a HCT of 28 on the floor and she received 1U pRBC with
   repeat HCT 33.
   -- trend HCT
   # CAD. The patient has a history of an NSTEMI. She is not on ASA due to
   a history of recent GI bleeds. The patient was restarted on her low
   dose beta blocker, which was later discontinued due to patient request.
   # LUE DVT. The patient had an ultrasound on [**2194-8-25**] which revealed a
   stable hematoma and upper extremity DVT. She was continued on her home
   dose of lovenox.
   # Chronic bilateral LE edema and venous stasis. The patient was
   continued on her home trimacinolone cream.
   # GERD. Continued on protonix
   # Fungal groin rash. Continued on Miconazole powder.
 IMPAIRED SKIN INTEGRITY
 LINE INFECTION (CENTRAL OR ARTERIAL)
 CROHN'S DISEASE (REGIONAL ENTERITIS)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERATION IN NUTRITION
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2194-9-5**] 01:16 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2194-09-08 07:14:00 Physician Resident Progress Note
Chief Complaint: 82F with MDS, Crohn's with multiple GI bleeds, CAD s/p
   NSTEMI, CKD, breast CA, with worsening respiratory status over past
   several months of unclear etiology, transferred from floor for hypoxia,
   AMS in setting of failed CPAP titration and family attempt to replace
   mask.
   24 Hour Events:
   No events overnight
   Allergies:
   Belladonna Alkaloids
   itching; swolle
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-9-8**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.3
   HR: 60 (60 - 84) bpm
   BP: 90/46(51) {90/36(51) - 136/58(76)} mmHg
   RR: 26 (18 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.4 kg (admission): 68.5 kg
   Height: 60 Inch
                  Total In:
                                                                  1,440 mL
                  PO:
                                                                  1,440 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,910 mL
                                                                    685 mL
   Urine:
                                                                  1,910 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -470 mL
                                                                   -685 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///36/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   196 K/uL
   8.5 g/dL
   127 mg/dL
   2.0 mg/dL
   36 mEq/L
   5.8 mEq/L
   36 mg/dL
   105 mEq/L
   144 mEq/L
   28.1 %
   4.9 K/uL
        [image002.jpg]
                             [**2194-9-1**]  03:44 PM
                             [**2194-9-2**]  03:02 AM
                             [**2194-9-2**]  06:13 PM
                             [**2194-9-3**]  05:23 AM
                             [**2194-9-5**]  03:10 PM
                             [**2194-9-5**]  06:31 PM
                             [**2194-9-6**]  05:40 AM
                             [**2194-9-6**]  05:31 PM
                             [**2194-9-7**]  05:13 AM
                             [**2194-9-8**]  05:39 AM
   WBC
   7.6
   4.4
   5.5
   7.3
   6.3
   4.9
   Hct
   31.7
   30.5
   29.3
   31.5
   32.6
   30.5
   28.1
   Plt
   184
   140
   184
   [**Telephone/Fax (3) 9965**]
   Cr
   2.0
   1.9
   2.0
   1.9
   1.9
   1.9
   1.9
   2.1
   2.0
   TropT
   0.09
   TCO2
   45
   Glucose
   179
   97
   123
   110
   80
   112
   129
   140
   127
   Other labs: PT / PTT / INR:10.8/25.5/0.9, CK / CKMB /
   Troponin-T:16//0.09, Differential-Neuts:79.8 %, Lymph:15.0 %, Mono:4.5
   %, Eos:0.5 %, Lactic Acid:2.4 mmol/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
   82F with MDS, Crohn's with multiple GI bleeds, CAD s/p NSTEMI, CKD,
   breast CA, with worsening respiratory status over past several months
   of unclear etiology, transferred from floor for hypoxia, AMS in setting
   of failed CPAP titration and family attempt to replace mask.
 ALTERED MENTAL STATUS (NOT DELIRIUM). Initially due to hypercarbia,
   which resolved. Infection also felt to contribute with coagulase
   negative staph bacteremia. This most recent episode likely due to
   hypoxia and mild hypercarbia.
   -- BiPAP today and O/N
 LINE INFECTION (CENTRAL OR ARTERIAL) - Coag Neg Staph Bacteremia:
   repeat Bld Cx neg so far, likely PORT, will treat through due to poor
   vascular access
   -- cont to monitor for fever
   -- f/u bld cx from [**9-2**] (GPC coag negative on [**8-31**])
   -- plan 14 day vanc iv course day [**6-12**]
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) The patient was slightly
   dyspneic at baseline on presentation. The daughter reported that the
   patient was wearing continuous O2 at home with good oxygen sats. The
   CXR was consistent with fluid overload. The patient was diuresed with
   lasix. The diureses greatly improved the patient's symptoms. She was
   sating in the low 90's on room air. She was placed on BiPAP at night
   (on the patient's home settings) and nasal canula during the day. She
   was then transferred to the floor, where the patient had an inpatient
   overnight sleep study on CPAP that did not go well, as above.
   -- cont BiPAP.
   -- zyprexa prior to BiPAP
   # Diastolic Heart Failure. The patient presented with fluid overload,
   which likely contributed to her dyspnea. The CXR was consistent with
   fluid overload. The patient had an elevated BNP as well. The patient
   was diuresed with lasix and her home dose of lopressor was started
   (although the patient was not taking this medication). The lopressor
   was later stopped due to patient and family refusal.
   -- cont diuresis  - negative 500cc
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA). Intermittent, in
   setting of acidosis and/or dietary indescretion, responds to lasix and
   kayexelate.
   -- cont to trend
 CROHN'S DISEASE (REGIONAL ENTERITIS): The patient was continued on
   her home mesalamin. She was also continued on her steroid taper. The
   patient was guaiac positive during her stay, however, her hematocrit
   remained stable and was not further assessed. The patient also had 4
   episodes of diarrhea which self resolved.
   -- cont steroid taper
   -- cont atovaquone for PJP ppx
   # CKD. The patient presented with a creatinine near baseline. She has a
   mild increase with aggressive diuresis, that resolved upon holding
   diuresis for 12 hours.
   -- trend Cr
   -- renally dose all meds
   # Anemia. The patient presented with a hematocrit at her baseline,
   which has been stable since her last admission. The etiology is likely
   of chronic disease. We continued her epo and folic acid. She got B12 on
   [**2194-8-25**]. She had a HCT of 28 on the floor and she received 1U pRBC with
   repeat HCT 33.
   -- trend HCT
   # CAD. The patient has a history of an NSTEMI. She is not on ASA due to
   a history of recent GI bleeds. The patient was restarted on her low
   dose beta blocker, which was later discontinued due to patient request.
   # LUE DVT. The patient had an ultrasound on [**2194-8-25**] which revealed a
   stable hematoma and upper extremity DVT. She was continued on her home
   dose of lovenox.
   # Chronic bilateral LE edema and venous stasis. The patient was
   continued on her home trimacinolone cream.
   # GERD. Continued on protonix
   # Fungal groin rash. Continued on Miconazole powder.
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ANEMIA, CHRONIC
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 GASTROESOPHAGEAL REFLUX DISEASE (GERD)
 INEFFECTIVE COPING
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Discharge planning
 IMPAIRED SKIN INTEGRITY
 LINE INFECTION (CENTRAL OR ARTERIAL)
 CROHN'S DISEASE (REGIONAL ENTERITIS)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERATION IN NUTRITION
   ICU Care
   Nutrition:
   Comments: Diabetic diet
   Glycemic Control:  Insulin infusion
   Lines:
   Indwelling Port (PortaCath) - [**2194-9-5**] 01:16 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: